US08030318B2
To a suspension of substituted nicotinic acid, 4-[2-(5-Chloro-2-fluoro-phenyl)-7-(2-dimethylamino-ethylamino)-pyrido[2,3-d]pyrimidin-4-ylamino]-nicotinic acid (0.030 g) in dry DMF (1 ml) was added Carbonyldiimidazole (0.020 g) followed by methylamine (156 uL, 2 M solution if THF). The reaction mixture was stirred at room temperature for 16 h. The crude residue was purified by preparative HPLC (Acetonitrile/water 5% to 95% gradient) to give 4-[2-(5-Chloro-2-fluoro-phenyl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-N-methyl-nicotinamide (280 mg, 68%) as a white solid.

reactant | 4-[2-(5-Chloro-2-fluoro-phenyl)-7-(2-dimethylamino-ethylamino)-pyrido[2,3-d]pyrimidin-4-ylamino]-nicotinic acid | 0.030 g | ClC=1C=CC(=C(C1)C=1N=C(C2=C(N1)N=C(C=C2)NCCN(C)C)NC2=CC=NC=C2C(=O)O)F | C23H21ClFN7O2
reactant | Carbonyldiimidazole | 0.020 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 2 M, 156 uL | CN | CH5N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-[2-(5-Chloro-2-fluoro-phenyl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-N-methyl-nicotinamide | 280 mg, 68% | ClC=1C=CC(=C(C1)C1=NC2=C(C(=N1)NC1=CC=NC=C1C(=O)NC)CCC2)F | C20H17ClFN5O
